US04678792
EXAMPLE F ps 2-(2-Chlorobenzyl)-6-methoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6-methoxy-3,4-dihydro-isoquinoline and 2-chlorobenzyl chloride in ethylene chloride. Melting point: 156°-158° C. (Decomp., from dioxan).

reactant | 6-methoxy-3,4-dihydro-isoquinoline | COC=1C=C2CCN=CC2=CC1 | C10H11NO
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | dioxan | O1CCOCC1 | C4H8O2
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 2-(2-Chlorobenzyl)-6-methoxy-3,4-dihydroisoquinolinium chloride | [Cl-].ClC1=C(C[N+]2=CC3=CC=C(C=C3CC2)OC)C=CC=C1 | InChI=1S/C17H17ClNO.ClH/c1-20-16-7-6-14-11-19(9-8-13(14)10-16)12-15-4-2-3-5-17(15)18;/h2-7,10-11H,8-9,12H2,1H3;1H/q+1;/p-1
